US05201932
3-tert.-Butylaminocarbonyl-5-phenyl-isothiazole- 4-carboxylic acid (No. 3.045 in Table 3)
With ice cooling, 0.64 g (8.8 mmol) of tert-butylamine was dripped into 2.0 g (8.7 mmol) of 5-phenyl-isothiazole-3,4-dicarboxylic anhydride in 10 ml of dichloromethane, and the whole was stirred for 3 hours at room temperature. The solution was when evaporated down, 25 ml of water was added, and the solution was acidified to a pH of 2 with 6N HCl and extracted three times, each time with 30 ml of ethyl acetate. The organic phase was washed with 20 ml of saturated sodium chloride solution, dried over magnesium sulfate and evaporated down. The residue was chromatographed on silica gel (developer: ethanol/toluene 2:3). Yield: 49%.

reactant | tert-butylamine | 8.8 mmol, 0.64 g | C(C)(C)(C)N | C4H11N
reactant | 5-phenyl-isothiazole-3,4-dicarboxylic anhydride | 8.7 mmol, 2.0 g | C1(=CC=CC=C1)C1=C2C(=NS1)C(=O)OC2=O | C11H5NO3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-tert.-Butylaminocarbonyl-5-phenyl-isothiazole- 4-carboxylic acid | Yield: 49% | C(C)(C)(C)NC(=O)C1=NSC(=C1C(=O)O)C1=CC=CC=C1 | C15H16N2O3S
